US04783471
A solution of phenyl (4-piperidinyl)methanone (18.1 g, 0.096 mol) was dissolved in toluene (200 ml) containing 1-bromo-3-phenylpropane (21.9 g, 0.11 mol, 16.7 ml), K2CO3 (30.4 g, 0.22 mol) and KI (0.2 g ) and was refluxed for 64 h. The reaction mixture was filtered and concentrated to give a light yellow oil. This material was dissolved in toluene/EtOAc (1:1) and treated with HCl 0.096 mol) dissolved in CH3OH/EtOAc (2:5, 35 ml) to give a precipitate which was filtered off and recrystallized twice from EtOH/Et2O (150 ml) to give phenyl[1-(3-phenylpropyl)-4-piperidinyl]-methanone hydrochloride, mp 199°-200° C.

reactant | phenyl (4-piperidinyl)methanone | 0.096 mol, 18.1 g | C1(=CC=CC=C1)C(=O)C1CCNCC1 | C12H15NO
reactant | 1-bromo-3-phenylpropane | 0.11 mol, 16.7 ml, 21.9 g | BrCCCC1=CC=CC=C1 | C9H11Br
reactant | K2CO3 | 0.22 mol, 30.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | 0.096 mol | Cl | ClH
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene EtOAc | C1(=CC=CC=C1)C.CCOC(=O)C
solvent | CH3OH EtOAc | 35 ml | CO.CCOC(=O)C
product | phenyl[1-(3-phenylpropyl)-4-piperidinyl]-methanone hydrochloride | Cl.C1(=CC=CC=C1)C(=O)C1CCN(CC1)CCCC1=CC=CC=C1 | InChI=1S/C21H25NO.ClH/c23-21(19-11-5-2-6-12-19)20-13-16-22(17-14-20)15-7-10-18-8-3-1-4-9-18;/h1-6,8-9,11-12,20H,7,10,13-17H2;1H
